Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.64195950847
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[O:11]>>[H:1][c:2]1[c:3][c:4]([C:5]([H:6])([H:7])[H:8])[c:9]([H:10])[o:11]1,0.16742632464
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])([C:4]([H:6])[C:11]([H:12])([H:13])[H:14])[H:10],3.4333658857
[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],-5.11256364628
[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-4.07318001724
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2]#[C:3],6.804387760669999
[H:7].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:8][H:9]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9],-1.65758187913
[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.371330042169999
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]#[C:4][H:5].[O:1]=[C:2]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],3.3285139125200005
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[C:8]=[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][H:7],5.530591339830001
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:13][H:14]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-5.36225706597
[H:1][O:2][C:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[O:9][H:10]>>[C:5]=[C:6]([H:7])[H:8].[H:1][O:2][C:3]([H:4])[O:9][H:10],3.23488955141
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10]/[O:11][H:12].[H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-3.06349723736
[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],-5.15356024249
[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3],3.6154126067
[O:1]=[C:2]([H:3])[C:4]#[C:5][H:6]>>[C:4]#[C:5][H:6].[O:1]=[C:2][H:3],5.2079878903
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:3],5.04678128665
[H:1][C:2]=[C:3]1[C:4]([H:5])([H:6])[O:7][C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],0.148094991981
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11],7.700979687030001
[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3]([O:4][C:5][H:6])=[C:10]([H:11])[H:12],7.692781409939999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.45553036345
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[H:1][C:2]1[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]1[H:10],-2.84057714916
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[O:15][H:16],4.44310315561
[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-4.96301978691
[H:11].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]#[C:12][H:13]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12][H:13],-2.08561089896
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])=[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4],1.92705504015
[H:10].[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])=[C:8][H:9]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-5.12992395231
[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8],4.91300683924
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:8][H:9])=[C:10]([H:11])[H:12].[H:7],1.5400439470200002
